US07671062B2
Example 1, Step 9 (See Alternative Step 9, below): A stirring solution of benzyl (S)-1-((1S,2R,4R)-2-acetamido-4-(isopropylamino)cyclohexyl)-2-oxopyrrolidin-3-ylcarbamate (˜115 mmol) in dichloromethane (600 mL) was cooled to 0° C. and charged sequentially with formaldehyde (18.6 g, 37 wt % solution), triethylamine (23 mL), and sodium triacetoxyborohydride (28.7 g). The mixture was stirred at room temperature for 30 minutes and diluted with dichloromethane (up to 1.2 L). This solution was washed thrice with 500 mL sat. NaHCO3+NaOH (sat. NaHCO3, pH to 11 w/1N NaOH). The organic layer was extracted with aq. HCl (200 mL 1N HCl+600 mL water). The aqueous phase was basified with sat. NaHCO3 (500 mL) and then 1N NaOH (100 mL) until pH 11. The aqueous phase was extracted with dichloromethane (1.2 L). The organic extracts were combined, dried (Na2SO4), filtered, and concentrated in vacuo to give benzyl (S)-1-((1S,2R,4R)-2-acetamido-4-(isopropyl(methyl)amino)cyclohexyl)-2-oxopyrrolidin-3-ylcarbamate as an oil, which was used directly in Step 10 below. LC/MS found [M+H]+=445.4. 1H-NMR (400 MHz, d4-MeOH): δ 7.3-7.4 (m, 5H), 5.12 (s, 2H), 4.33 (br s, 1H), 4.25 (t, J=9.2 Hz, 1H), 4.11 (br s, 1H), 3.5-3.6 (m, 2H), 2.77 (v br s, 2H), 2.41 (m, 1H), 2.26 (s, 3H), 2.0-2.1 (m, 2H), 1.92 (s, 3H), 1.7-1.9 (m, 5H), 1.10 (app. dd, J=17, 6.4 Hz, 6H).

reactant | benzyl (S)-1-((1S,2R,4R)-2-acetamido-4-(isopropylamino)cyclohexyl)-2-oxopyrrolidin-3-ylcarbamate | ˜115 mmol | C(C)(=O)N[C@H]1[C@H](CC[C@H](C1)NC(C)C)N1C([C@H](CC1)NC(OCC1=CC=CC=C1)=O)=O | C23H34N4O4
reactant | formaldehyde | 18.6 g | C=O | CH2O
reactant | triethylamine | 23 mL | C(C)N(CC)CC | C6H15N
reactant | sodium triacetoxyborohydride | 28.7 g | C(C)(=O)O[BH-](OC(C)=O)OC(C)=O.[Na+]
solvent | dichloromethane | 600 mL | ClCCl | CH2Cl2
product | benzyl (S)-1-((1S,2R,4R)-2-acetamido-4-(isopropyl(methyl)amino)cyclohexyl)-2-oxopyrrolidin-3-ylcarbamate | C(C)(=O)N[C@H]1[C@H](CC[C@H](C1)N(C)C(C)C)N1C([C@H](CC1)NC(OCC1=CC=CC=C1)=O)=O | C24H36N4O4
